US05190950
17-Ethyl-1,20-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
A solution of 17-ethyl-1,20-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-14,18-diene-2,3,10,16-tetraone in ethyl acetate is hydrogenated at 40 p.s.i. in a shaker apparatus using hydrogen and 5% rhodium on carbon catalyst until one molar equivalent of hydrogen is consumed. Filtration to remove catalyst and evaporation to remove solvent affords the product reduced at the Δ14,15 -position.

reactant | 17-ethyl-1,20-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-14,18-diene-2,3,10,16-tetraone | C(C)C1C(C=CC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)O)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C43H67NO12
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on carbon | [Rh] | Rh
product | 17-Ethyl-1,20-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)O)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C43H69NO12
